US05084466
(R)-N-benzyloxycarbonyl-tyrosine methyl ester was reacted in a manner analogous to that described in Example 3 with t-butyl bromoacetate in the presence of potassium carbonate to give N-benzyloxycarbonyl-3-[p-(tert-butoxycarbonylmethoxy)phenyl]-D-alanine methyl ester. The colorless oil was hydrogenated in methanol, after addition of 5% palladium/carbon, in a shaking apparatus at room temperature under atmospheric pressure, obtaining, after filtration and removal of the solvent, 3-[p-(tert-butoxycarbonylmethoxy)phenyl]-D-alanine methyl ester in the form of a colorless oil.

reactant | (R)-N-benzyloxycarbonyl-tyrosine methyl ester | COC([C@H](NC(=O)OCC1=CC=CC=C1)CC1=CC=C(C=C1)O)=O | C18H19NO5
reactant | t-butyl bromoacetate | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | N-benzyloxycarbonyl-3-[p-(tert-butoxycarbonylmethoxy)phenyl]-D-alanine methyl ester | COC([C@H](NC(=O)OCC1=CC=CC=C1)CC1=CC=C(C=C1)OCC(=O)OC(C)(C)C)=O | C24H29NO7
